US04891367
3β-Benzyloxyandrost-5-en-17β-thiol is obtained starting from dehydroepiandrosterone. The dehydroepiandrosterone is reacted with one equivalent of sodium hydride and benzyl chloride by standard procedures for making benzyl ethers to give 3-benzyloxyandrost-5-en-17-one. This benzyloxy compound is then reacted with Lawesson's reagent (4-methoxyphenylthiophosphine sulfide dimer) according to the procedure described in M. Feiser, "Feiser and Feiser's Reagents for Organic Synthesis", John Wiley & Sons, New York, 1980, p. 327; also B. S. Pedersen et al., Bull. Soc. Chim. Belg., 87, 223 (1978). This gives 3β-benzyloxyandrost-5-ene-17-thione and this thione is then reduced with lithium aluminum hydride by standard procedures to give the desired 17β-thiol. Then, to a solution of cyclopropanone in dichloromethane under nitrogen at -50° C., there is added rapidly 1.1 equivalent of the above thiol in dichloromethane. The temperature is allowed to rise to -30° C. and, after 16 hours, most of the solvent is evaporated. Dry ether is added to precipitate by-product polyketene. The by-product is removed by filtration, the solvent is distilled from the filtrate, and the residue is purified by flash chromatography to give 3β-benzyloxy-17β-(1-hydroxycyclopropylthio)androst-5-ene.

reactant | dehydroepiandrosterone | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CC=C4[C@@]3(CC[C@@H](C4)O)C | C19H28O2
reactant | sodium hydride | one equivalent | [H-].[Na+]
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 3-benzyloxyandrost-5-en-17-one | C(C1=CC=CC=C1)OC1CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C26H34O2
